US05366972
5,11-Dihydro-11-ethyl-4-methyl-2-methylseleno-3-nitro-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a mixture of 2-chloro-5,11-dihydro-11-ethyl-4-methyl-3-nitro-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.063 g) and dimethyldiselenide (0.11 g) in isopropanol (0.5 mL) in a pressure tube was added sodium borohydride (0.006 g). The tube was sealed and heated at 110° C. for 5 minutes and then left at room temperature for 3 days. The mixture was eluted from a short silica gel column (chloroform) and then fractionated by preparative layer chromatography to give a mixture of 2-chloro-5,11-dihydro-11-ethyl-4-methyl-3-nitro-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 5,11-dihydro-11-ethyl-4-methyl-2-methylseleno-3-nitro- 6H-dypyrido[3,2-b:2', 3'-e][1,4]diazepin-6-one. The mixture was dissolved in dioxan (1 mL) and ethanolamine (0.1 g) was added. The mixture was heated at 100° C. for 2 hours whereupon the remaining starting material had reacted. Evaporation of the solvent and chromatography over silica gel gave the title compound which crystallized on trituration with diisopropyl ether, m.p. 261°-267° C. dec.

reactant | 2-chloro-5,11-dihydro-11-ethyl-4-methyl-3-nitro-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.063 g | ClC=1C(=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=O)C)[N+](=O)[O-] | C14H12ClN5O3
reactant | dimethyldiselenide | 0.11 g | C[SeH-](=[Se])C
reactant | sodium borohydride | 0.006 g | [BH4-].[Na+]
reactant | [1,4]diazepin-6-one | N=1C=CN=CC(C1)=O | C5H4N2O
reactant | ethanolamine | 0.1 g | C(O)CN | C2H7NO
solvent | isopropanol | 0.5 mL | C(C)(C)O | C3H8O
solvent | dioxan | 1 mL | O1CCOCC1 | C4H8O2
product | 5,11-Dihydro-11-ethyl-4-methyl-2-methylseleno-3-nitro-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=C(C(=N2)[Se]C)[N+](=O)[O-])C | C15H15N5O3Se
